* ============================================
* Test: compute_disturb_hi.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/tb/8T_tb.spice
.include /workspace/analog/designs/params_6T.spice
.include /workspace/analog/designs/params_8T.spice
.include /workspace/analog/designs/pvt.spice

*----------------------------------
* CMOS inverter load
*----------------------------------
MPINV out rbl vdd vdd pfet_03v3 W=0.44u L=0.28u
MNINV out rbl vss vss nfet_03v3 W=0.22u L=0.28u

* -- stimulus --
VVDD vdd  0 {VDD_CORNER}    ; supply
VVSS vss  0 0               ; source
VWL  wl   0 0               ; read: OFF
VBL  wbl  0 0               ; bitlines parked (or floating)
VBLB wblb 0 0               ; bitlines parked (or floating)
VA   a    0 PULSE(0 {VDD_CORNER} 2n 0.1n 0.1n 5n 10n)    ; set Activation = HI
* -- initial conditions --
.ic v(q)={VDD_CORNER} v(qb)=0

* -- sim --
.control
  save all

  * --- start transient analysis --- 
  tran 0.1n 200n uic

  * --- validate data ---
  echo
  meas tran o_init    FIND v(rbl) AT= 2n
  meas tran o_mid     FIND v(rbl) AT=50n
  meas tran o_final   FIND v(rbl) AT=99n
  echo
  meas tran o_min MIN v(rbl) FROM=2n TO=100n
  meas tran o_max MAX v(rbl) FROM=2n TO=100n
  echo
  meas tran out_min MIN v(out) FROM=2n TO=100n
  meas tran out_max MAX v(out) FROM=2n TO=100n
  echo

  * --- save .raw for python parsing ---
  * write /workspace/analog/sim/8t/results/compute_disturb_hi.raw all
.endc

.end